US04100170
Preparation of 1-Hydroxymethyladamantane, III
Methyl-1-adamantanecarboxylate (104 gm.) dissolved in 465 ml. anhydrous ether was added over a 2 hour period to 37.5 gm. lithium aluminum hydride in 753 ml. anhydrous ether. The mixture was stirred an additional 2 hours, cooled and water added gradually. The ether was separated. The water was extracted twice with ether and the combined ether layers dried and concentrated. The residual solid was dissolved in methanol and water was added to precipitate the product which was filtered and dried over P2O5 to give 80 gm., m.p. 113.5°-15.5°.

reactant | Methyl-1-adamantanecarboxylate | 104 gm | COC(=O)C12CC3CC(CC(C1)C3)C2 | C12H18O2
reactant | ether | CCOCC | C4H10O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | water | O | H2O
product | 1-Hydroxymethyladamantane | OCC12CC3CC(CC(C1)C3)C2 | C11H18O
